US05728701
Acetyl chloride (3.95 ml) was added dropwise to a stirred solution of 4-amino1-benzylpiperidine (10.0 g) and triethylamine (7.7 ml) in dry dichloromethane (100 ml) at 4° C. The mixture was allowed to reach ambient temperature and stirred for 16 hours. Water was then added, the organic phase separated and dried (MgSO4), and removal of the solvent by evaporation gave 4-acetylamino-1-benzylpiperidine, 10.23 g, as a light brown solid which was used without further purification: NMR (CDCl3) δ 7.29(5H,m), 5.29(1H,b), 3.79(1H,m), 3.49(2H,s), 2.80(2H,dm), 2.12(2H,dt), 1.95(3H,s), 191(2H,dm), 1.46(2H,dq); m/e 233 (M+H)+.

reactant | Acetyl chloride | 3.95 ml | C(C)(=O)Cl | C2H3ClO
reactant | 4-amino1-benzylpiperidine | 10.0 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | triethylamine | 7.7 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-acetylamino-1-benzylpiperidine | C(C)(=O)NC1CCN(CC1)CC1=CC=CC=C1 | C14H20N2O
